US05438052
(6R, 7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (100 mg) (0.17 mmol) and 93 mg (0.22 mmol) of 5-[(aminooxy)methyl]-4,7-dichloro-2,2-diphenyl-1,3-benzodioxol hydrochloride are dissolved in 2 ml of absolute dimethylacetamide. After stirring at room temperature for 20 hours the solvent is distilled off in a high vacuum at room temperature. The residue is crystallized using diethyl ether. The product is filtered off under suction and washed with diethyl ether and water. There are obtained 160 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-yl)methoxy]imino]-acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]-methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder after drying in a high vacuum at room temperature.

reactant | (6R, 7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.17 mmol, 100 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O)=O | C23H18N6O7S3
reactant | 5-[(aminooxy)methyl]-4,7-dichloro-2,2-diphenyl-1,3-benzodioxol hydrochloride | 0.22 mmol, 93 mg | Cl.NOCC1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)Cl)Cl
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-yl)methoxy]imino]-acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]-methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 160 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O)=N/OCC1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)Cl)Cl | C43H31Cl2N7O9S3
